data/oMe_Silver.jsonl
{"reaction_id": "NR-339_1-C(C)C_2-c1cncnc1_3-OC","level": "hard","name": "Rupe Rearrangement","reactants_smiles": ["C#CC(O)(C(C)C)C(c1cncnc1)OC"],"products_smiles": ["CC(=O)C(=C(c1cncnc1)OC)C(C)C"],"conditions": "Acid (e.g., H2SO4, Formic Acid)","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C#CC([OH2+])(C(C)C)C(c1cncnc1)OC","step_weight": 0,"rationale": "Protonation of the hydroxyl increases its leaving group ability by converting OH into water, favored under strong acid due to the high basicity of oxygen."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C#C[C+](C(C)C)C(c1cncnc1)OC","step_weight": 0,"rationale": "Heterolytic cleavage of the C–O bond occurs because water is an excellent leaving group and the resulting carbocation is stabilized by the adjacent propargyl system."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C#CC(=C(c1cncnc1)OC)C(C)C","step_weight": 0,"rationale": "Proton elimination forms an allene, driven by the stability from cumulated double bonds and relief of carbocation instability."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C=[C+]C(=C(c1cncnc1)OC)C(C)C","step_weight": 0,"rationale": "Electrophilic addition to the allene occurs at the less substituted carbon to generate a more substituted, resonance-stabilized allylic carbocation."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C=C([OH2+])C(=C(c1cncnc1)OC)C(C)C","step_weight": 0,"rationale": "Water adds to the carbocation center because the cation is highly electrophilic and water is abundant under acidic aqueous conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C=C(O)C(=C(c1cncnc1)OC)C(C)C","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores the neutral alcohol, favored by the stability of the C–OH bond."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)C(=C(c1cncnc1)OC)C(C)C","step_weight": 0,"rationale": "Protonation of the alcohol oxygen activates it for tautomerization by increasing the electrophilicity of the adjacent carbon."},{"step": 8,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CC(=O)C(=C(c1cncnc1)OC)C(C)C","step_weight": 0,"rationale": "Proton elimination from the α-carbon leads to the conjugated enone, favored thermodynamically by extended π-conjugation."}],"description": "Under strong acid, the propargyl tertiary alcohol undergoes protonation to activate the hydroxyl as a leaving group, forming a stabilized carbocation. Rearrangement and addition steps proceed via resonance-stabilized cationic intermediates, ultimately yielding the α,β-unsaturated ketone through tautomerization and elimination."}
